US05545636
3-(1-Methyl-indol-3-yl)-4-{1-[1-{2,2,2-trifluoro-ethyl)-piperidin-4-yl]-indol-3-yl}-1H-pyrrole-2,5dione
To a stirred 0° C. solution of 1-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-indole (180 mg, 0.64 mmol) in dry ether (3 mL ) was added oxalyl chloride (0.06 mL, 0.7 mmol). The reaction mixture was warmed to ambient temperature for 30 minutes. An additional amount of oxalyl chloride (0.04 mL, 0.5 mmol ) was added. After 30 minutes, a yellow precipitate formed which was filtered with the exclusion of moisture and air, and washed with a small amount of ether. The collected precipitant was dissolved in dry methylene chloride (10 mL) and treated with isopropyl(1-methyl) indol-3-yl)acetimidate hydrochloride (190 mg, 0.71 mmol ) followed by slow addition of triethylamine (0.44 mL, 3.2 mmol) at 0° C. After 4 hours at ambient temperature, p-toluene sulfonic acid monohydrate (0.61 g, 3.2 mmol) was added. After 30 minutes the mixture was quenched with saturated aqueous sodium hydrogen carbonate solution (40 mL). The organic phase was separated, washed with water, dried, and evaporated. The residue was recrystallized from hot dioxane and yielded 100 mg of bright orange crystals. Recrystallization of the mother liquor from THF yielded a second crop (60 mg). Yield: 160 mg of bright orange crystals (49% of theory) M.Pt.: >250° C.

reactant | 1-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-indole | 0.64 mmol, 180 mg | FC(CN1CCC(CC1)N1C=CC2=CC=CC=C12)(F)F | C15H17F3N2
reactant | oxalyl chloride | 0.7 mmol, 0.06 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.5 mmol, 0.04 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acetimidate hydrochloride | 0.71 mmol, 190 mg | Cl.C(C)(O)=N
reactant | triethylamine | 3.2 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulfonic acid monohydrate | 3.2 mmol, 0.61 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ether | 3 mL | CCOCC | C4H10O
product | 3-(1-Methyl-indol-3-yl)-4-{1-[1-{2,2,2-trifluoro-ethyl)-piperidin-4-yl]-indol-3-yl}-1H-pyrrole-2,5dione | 100 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C1CCN(CC1)CC(F)(F)F)=O)=O | C28H25F3N4O2
